US07479488B2
96f (R)-1-carboxy-2-(3-chloro-4-methyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 0.34 g (14.2 mmol) LiOH in 20 mL water was added to a solution of 3.38 g (6.76 mmol) of (R)-2-(3-chloro-4-methyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 30 mL THF and the reaction mixture was stirred for 7 h at RT. The mixture was evaporated down i.vac., diluted with 80 mL water, the aqueous phase was extracted twice with 50 mL diethyl ether, the aqueous phase was acidified with 4 M HCl and stirred for 30 min. The precipitated product was suction filtered, washed with water and dried.

reactant | LiOH | 14.2 mmol, 0.34 g | [Li+].[OH-]
reactant | (R)-2-(3-chloro-4-methyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 6.76 mmol, 3.38 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)C)Cl)C(=O)OC)C=CC=C2 | C26H30ClN3O5
solvent | water | 20 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (R)-1-carboxy-2-(3-chloro-4-methyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)C)Cl)C(=O)O)C=CC=C2 | C25H28ClN3O5
